US05240946
[2-(7,8-Dioxo-2,5-diazabicyclo[4.2.0]oct-1(6)-en-2-yl)ethyl]phosphonic acid
A solution of [2-(7,8-dioxo-2,5-diazabicyclo[4.2.0]oct-1(6)-en-2-yl)ethyl]phosphonic acid diethyl ester (0.78 g, 2.6 mmol) and bromotrimethylsilane (2.1 mL, 16 mmol) in dry 1,2-dichloroethane (30 mL) was refluxed under nitrogen for 20 minutes. The cooled reaction mixture was concentrated in vacuo, and the residue was dissolved in water (100 mL) and washed with diethyl ether (3×50 mL). After concentrating the aqueous layer, the residue was recrystallized from water (25 mL) and methanol (300 mL) to yield a solid beige impurity which was removed by filtration. The filtrate was concentrated and recrystallized from water in isopropanol to yield the title compound as a yellow solid (0.37 g, 58%, mp 220°-270° C. dec); IR (KBr, cm-1): 1800; MS (-FAB): 245 (M-H); 1H NMR (DMSO/drop of DCl, 400 MHz): δ 3.58-3.51 (m, 2H), 3.40-3.33 (m, 4H), 2.07-1.98 (m, 2H).

reactant | [2-(7,8-dioxo-2,5-diazabicyclo[4.2.0]oct-1(6)-en-2-yl)ethyl]phosphonic acid diethyl ester | 2.6 mmol, 0.78 g | C(C)OP(OCC)(=O)CCN1C=2C(C(C2NCC1)=O)=O | C12H19N2O5P
reactant | bromotrimethylsilane | 16 mmol, 2.1 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | [2-(7,8-Dioxo-2,5-diazabicyclo[4.2.0]oct-1(6)-en-2-yl)ethyl]phosphonic acid | 0.37 g, 58% | O=C1C=2NCCN(C2C1=O)CCP(O)(O)=O | C8H11N2O5P
